US08067457B2
N-[2-({(3R)-1-[1-(1,3-benzodioxol-5-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (29)
The title compound was synthesized in similar fashion to N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, whereby 1-(1,3-benzodioxol-5-yl)piperidin-4-one was substituted for 1-(6-methoxypyridin-3-yl)piperidin-4-one, and was isolated as a white solid. 1H-NMR (CD3OD) δ: 1.79-1.85 (m, 2H), 2.03-2.18 (m, 3H), 2.40-2.47 (m, 1H), 2.67 (t, J=11.4 Hz, 2H), 3.13-3.21 (m, 1H), 3.35-3.43 (m, 2H), 3.54-3.64 (m, 4H), 4.03 (s, 2H), 4.48-4.50 (m, 1H), 5.86 (s, 2H) 6.42 (dd, J=8.4, 2.4 Hz, 1H), 6.62 (d, J=2.4 Hz, 1H), 6.69 (m, J=8.4 Hz, 2H), 7.70 (t, J=7.9 Hz, 2H), 7.87 (d, J=7.5 Hz, 1H), 8.15 (d, J=8.1 Hz, 1H), 8.21 (s, 1H), 8.33 (s, 2H). MS m/z: 519 (M+1)

reactant | N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H30F3N5O3
reactant | 1-(1,3-benzodioxol-5-yl)piperidin-4-one | O1COC2=C1C=CC(=C2)N2CCC(CC2)=O | C12H13NO3
reactant | 1-(6-methoxypyridin-3-yl)piperidin-4-one | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
product | N-[2-({(3R)-1-[1-(1,3-benzodioxol-5-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | O1COC2=C1C=CC(=C2)N2CCC(CC2)N2C[C@@H](CC2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O | C26H29F3N4O4
